US08242104B2
A mixture of 2.30 g (8.55 mmol) of 6-chloro-4-(1H-imidazol-2-yl)pyridin-3-ol dihydrochloride, 1,2-dibromoethane (1.842 mL, 21.37 mmol) and Cesium Carbonate (19.46 g, 59.74 mmol) in 120 ml of N,N-Dimethylformamide was heated for 3 hours at 90° C. The mixture was filtered and concentrated in high vacuum to give 10-Chloro-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine. Weight 1.88 g (99%) MS (ESI+): 222.2. 1H NMR (400 MHz, CDCl3) δ 8.37 (s, 1H), 8.17 (s, 1H), 7.24 (d, J=1.0, 1H), 7.10 (d, J=0.9, 1H), 4.51-4.45 (m, 4H).

reactant | 6-chloro-4-(1H-imidazol-2-yl)pyridin-3-ol dihydrochloride | 8.55 mmol, 2.30 g | Cl.Cl.ClC1=CC(=C(C=N1)O)C=1NC=CN1
reactant | 1,2-dibromoethane | 21.37 mmol, 1.842 mL | BrCCBr | C2H4Br2
reactant | Cesium Carbonate | 59.74 mmol, 19.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-Dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 10-Chloro-5,6-dihydroimidazo[1,2-d]pyrido[4,3-f][1,4]oxazepine | ClC1=CC=2C=3N(CCOC2C=N1)C=CN3 | C10H8ClN3O
